US08486962B2
To a solution of 4-amino acetophenone (650 mg, 4.8 mmol) and O-methyl-hydroxylamine hydrochloride (800 mg, 9.6 mmol) in ethanol (10 ml) was added a drop of conc. hydrochloric acid and the reaction was heated to reflux for 2 hr. The solvent was evaporated under reduced pressure and ethyl acetate was added, washed with water, dried over anhydrous sodium sulphate, and then filtered. Evaporation yielded 1-(4-aminophenyl)-ethanone-O-methyl-oxime (700 mg, 89%) as a solid.

reactant | 4-amino acetophenone | 4.8 mmol, 650 mg | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | O-methyl-hydroxylamine hydrochloride | 9.6 mmol, 800 mg | Cl.CON
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(4-aminophenyl)-ethanone-O-methyl-oxime | 700 mg, 89% | CON=C(C)C1=CC=C(C=C1)N | C9H12N2O
